US05641777
A) 2-(3,4-Dichlorophenyl)-2-(methylamino)acetonitrile hydrochloride
A mixture of 10 g of 3,4-dichlorobenzaldehyde and 9.5 ml of cyanotrimethylsilane is cooled in an ice bath, 10 mg of zinc iodide are added and the mixture is stirred for 30 minutes at RT. 20 ml of a 33% solution of methylamine in EtOH are then added and the mixture is heated at 40° C. for 2 hours. The solvent is concentrated under vacuum, the residue is extracted with ether and the organic phase is dried over MgSO4 and filtered. A saturated solution of gaseous HCl in ether is added to the filtrate until the pH is 1, and acetone is then added until the product precipitates. The precipitate formed is wrung, washed with ether and dried to give 12.8 g of the expected product. M.p.=172° C.

reactant | 3,4-dichlorobenzaldehyde | 10 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | cyanotrimethylsilane | 9.5 ml | C(#N)[Si](C)(C)C | C4H9NSi
reactant | methylamine | CN | CH5N
solvent | EtOH | CCO | C2H6O
catalyst | zinc iodide | 10 mg | [I-].[Zn+2].[I-]
product | 2-(3,4-Dichlorophenyl)-2-(methylamino)acetonitrile hydrochloride | 12.8 g | Cl.ClC=1C=C(C=CC1Cl)C(C#N)NC | InChI=1S/C9H8Cl2N2.ClH/c1-13-9(5-12)6-2-3-7(10)8(11)4-6;/h2-4,9,13H,1H3;1H
